US07589105B2
2-Methylthio-N,N′-diethyl-N,N′-bis(3-hydroxyphenyl)-pyrimidine-4,6-diamine (Exemplified Compound No. 1-71)
This compound was obtained (yield 43%) based on the method described in Production Example 2B using 4,6-dichloro-2-methylthio-pyrimidine instead of the 4,6-dichloro-2-ethylpyrimidine, and using 3-ethylaminophenol instead of the 3-aminophenol.

reactant | 4,6-dichloro-2-methylthio-pyrimidine | ClC1=NC(=NC(=C1)Cl)SC | C5H4Cl2N2S
reactant | 3-ethylaminophenol | C(C)NC=1C=C(C=CC1)O | C8H11NO
product | 2-Methylthio-N,N′-diethyl-N,N′-bis(3-hydroxyphenyl)-pyrimidine-4,6-diamine | yield 43% | CSC1=NC(=CC(=N1)N(C1=CC(=CC=C1)O)CC)N(C1=CC(=CC=C1)O)CC | C21H24N4O2S
